US07189741B2
C. Preparation of 2-{2-[4-(5-methoxy-1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 3.3 g (10 mmol) of 5-methoxy-3-piperidin-4-yl-1-thiophen-3-ylmethyl-1H-indole and 2.6 g (12 mmol) of 2-(2-chloro-ethoxy)-benzoic acid ethyl ester. After standard work-up and recrystallisation with ethanol, 1.8 g (37% of yield) of the expected acid were obtained.

reactant | 5-methoxy-3-piperidin-4-yl-1-thiophen-3-ylmethyl-1H-indole | 10 mmol, 3.3 g | COC=1C=C2C(=CN(C2=CC1)CC1=CSC=C1)C1CCNCC1 | C19H22N2OS
reactant | 2-(2-chloro-ethoxy)-benzoic acid ethyl ester | 12 mmol, 2.6 g | C(C)OC(C1=C(C=CC=C1)OCCCl)=O | C11H13ClO3
product | 2-{2-[4-(5-methoxy-1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | COC=1C=C2C(=CN(C2=CC1)CC1=CSC=C1)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C28H30N2O4S
